US04316906
Hydrolysis of (cis)-4-(4-acetyloxyphenylthio)-1-[3-(acetylthio)-1-oxopropyl]-L-proline with an aqueous ammonia solution according to the procedure of Example 2 yields (cis)-4-(4-hydroxyphenylthio)-1-(3-mercapto-1-oxopropyl)-L-proline.

reactant | (cis)-4-(4-acetyloxyphenylthio)-1-[3-(acetylthio)-1-oxopropyl]-L-proline | C(C)(=O)OC1=CC=C(C=C1)S[C@H]1C[C@H](N(C1)C(CCSC(C)=O)=O)C(=O)O | C18H21NO6S2
reactant | ammonia | N | H3N
product | (cis)-4-(4-hydroxyphenylthio)-1-(3-mercapto-1-oxopropyl)-L-proline | OC1=CC=C(C=C1)S[C@H]1C[C@H](N(C1)C(CCS)=O)C(=O)O | C14H17NO4S2
